US06008243
As described in Example 1(d) for the preparation of 3-(pyridin-4-yl)furan, 4-bromobenzonitrile (4.00 g, 22.0 mmol) was coupled to 3-furanboronic acid to furnish in high yield crude 3-(4-cyanophenyl)-furan as a brown solid, mp 55-7° C., which was used immediately without further purification. 1H NMR (CDCl3): δ 7.82 (bs, 1H), 7.67 (d, 2H, J=8.4 Hz), 7.59 (d, 2H, J=8.4 Hz), 7.52 (t, 1H, J=1.9 Hz), 6.72 (bs, 1H). IR (KBr): 2214, 1608, 1160, 796 cm-1. Anal. Calculated for C11H7NO.0.1 C6H6 : C, 78.72; H, 4.33; N, 7.91. Found: C, 78.32; H, 4.60; N, 7.65.

reactant | 3-(pyridin-4-yl)furan | N1=CC=C(C=C1)C1=COC=C1 | C9H7NO
reactant | 4-bromobenzonitrile | 22.0 mmol, 4.00 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 3-furanboronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
product | 3-(4-cyanophenyl)-furan | C(#N)C1=CC=C(C=C1)C1=COC=C1 | C11H7NO
